US06413971B1
(7-Allyl-pyrrolo[2,3-d]pyrimidin-4-yl)-(3-ethynyl-phenyl)-amine
To 4-chloro-7-allyl-pyrrolo[2,3-d]pyrimidine (0.5 g, 2.6 mmol) in dry MeOH (5 ml) was added m-aminophenyl acetylene (0.36 g, 3.1 mmol). The suspension was heated in a sealed pressure tube at 125° C. for 20 hours. The reaction was cooled to ambient temperature and concentrated in vacuo. The resulting oil was purified by flash chromatography on silica gel (50 g, 40 mm mesh) using 3% MeOH/CH2Cl2 to afford the title compound as a yellow powder (0.29 g, 41%): TS-MS: 275 (MH+); anal. RP18-HPLC RT: 4.62 minutes.

reactant | 4-chloro-7-allyl-pyrrolo[2,3-d]pyrimidine | 2.6 mmol, 0.5 g | ClC=1C2=C(N=CN1)N(C=C2)CC=C | C9H8ClN3
reactant | m-aminophenyl acetylene | 3.1 mmol, 0.36 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | MeOH | 5 ml | CO | CH4O
product | (7-Allyl-pyrrolo[2,3-d]pyrimidin-4-yl)-(3-ethynyl-phenyl)-amine | 0.29 g, 41% | C(C=C)N1C=CC2=C1N=CN=C2NC2=CC(=CC=C2)C#C | C17H14N4
